US04868294
To the filtrate containing the trimethylsilyl 7-(trimethylsilyl)amino-3-iodomethylceph-3-em-4-carboxylate at 0°-5° C. under an inert atmosphere of dry nitrogen was added 3.82 ml (36.7 mmoles, 1.0 equivalent) of 97% N-methylpyrrolidine (dried over molecular sieves) dropwise by syringe at such a rate so as to maintain a reaction temperature of less than 10° C. The resulting slurry was stirred an additional 15 minutes at 0°-5° C. After this time. 5.0 ml (123 mmoles, 3.35 equivalent) of methanol was added dropwise while maintaining a reaction temperature of less than 10° C. The resulting thin slurry was stirred an additional 15 minutes at 0°-5° C. The solid was suction filtered, washed with Freon TF (1×100 ml) and partially dried under suction for 15 minutes. Further drying in vacuo at ambient temperature to constant weight afforded 10.27 g (66%) of (6R,7R)-7-amino-3-(1-methyl-1-pyrrolidinio)methylceph-3-em-4-carboxylate monohydroiodide. The 360 MHz 1H NMR spectrum of this crude material (D2O) showed a Δ3 /Δ2 isomer ratio of 5.4/1; the HPLC chromatogram of the salt showed a Δ3 /Δ2 area % ratio of 8.1/1. The activity yield for the conversion of 7-ACA to 7-amino-3-(1-methyl-1-pyrrolidinio)methylceph-3-em-4-carboxylate was 43.5% (determined by HPLC quantitation of the salt versus a reference standard of the desired Δ3 isomer).

reactant | trimethylsilyl 7-(trimethylsilyl)amino-3-iodomethylceph-3-em-4-carboxylate | C[Si](C)(C)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)O[Si](C)(C)C)C1=O | C14H25IN2O3SSi2
reactant | N-methylpyrrolidine | 36.7 mmoles, 3.82 ml, 1.0 equivalent | CN1CCCC1 | C5H11N
reactant | methanol | 123 mmoles, 5.0 ml, 3.35 equivalent | CO | CH4O
product | (6R,7R)-7-amino-3-(1-methyl-1-pyrrolidinio)methylceph-3-em-4-carboxylate monohydroiodide | 10.27 g, 66% | I.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCCC2)C)C(=O)[O-])C1=O | InChI=1S/C13H19N3O3S.HI/c1-16(4-2-3-5-16)6-8-7-20-12-9(14)11(17)15(12)10(8)13(18)19;/h9,12H,2-7,14H2,1H3;1H/t9-,12-;/m1./s1
